US08372866B2
d) 2-(4-hydroxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one
Prepared analogously to Example 5d, starting from 2-(4-hydroxyphenyl)-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one. Yield: 84%; Rf (9/1 Chloroform/Methanol): 0.59, 1H-NMR (d6-DMSO): 10.38 (s broad, 1H), 8.40 (d, 1H), 8.1-7.9 (m, 3H), 7.70 (d, 1H); 7.55-7.25 (m, 10H); 7.17 (d, 2H); 5.22 (s, 2H), 5.07 (s, 2H); 2.11 (s, 3H).

reactant | 2-(4-hydroxyphenyl)-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one | OC1=CC=C(C=C1)C=1OC2=C(C(C1O)=O)C=C(C=C2)NC(C)=O | C17H13NO5
solvent | Chloroform Methanol | C(Cl)(Cl)Cl.CO
product | 2-(4-hydroxyphenyl)-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one | Yield: 84% | OC1=CC=C(C=C1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=O | C24H19NO5
